US09284333B2
To a solution of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid (Comp. No. 7c) (150 mg, 0.593 mmol) in dimethylformamide (4 ml) was added 1-hydroxybenzotriazole (80 mg, 0.593 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (114 mg, 0.593 mmol). The mixture was stirred for 90 min at 50° C., then (R)-1-(4-trifluoromethyl-phenyl)-propylamine (120 mg, 0.593 mmol) was added and the mixture was stirred at 25° C. overnight. The mixture was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 163 mg (65%) of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(4-trifluoromethyl-phenyl)-propyl]-amide as white solid. LC/MS (method 4): Rt=1.29 min; m/z=464.22 (M+H+). 1H-NMR: δ (ppm)=8.18 (1H, d), 7.69 (2H, d), 7.55 (2H, d), 7.26 (1H, s), 4.96 (1H, d), 4.83-4.92 (2H, m), 4.20-4.30 (2H, m), 3.92-3.99 (2H, m), 3.80-3.85 (1H, m), 3.69, (2H, bs), 2.06 (1H, m), 1.96 (1H, m), 1.76-1.85 (3H, m), 1.54-1.59 (1H, m), 1.19 (3H, d), 0.90 (3H, t).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | C[C@@H]1N(CCC1)C(=O)C1=CC(=C2COCCN21)C(=O)O | C14H18N2O4
reactant | 1-hydroxybenzotriazole | 0.593 mmol, 80 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.593 mmol, 114 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-1-(4-trifluoromethyl-phenyl)-propylamine | 0.593 mmol, 120 mg | FC(C1=CC=C(C=C1)[C@@H](CC)N)(F)F | C10H12F3N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(4-trifluoromethyl-phenyl)-propyl]-amide | 163 mg, 65% | FC(C1=CC=C(C=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)(F)F | C24H28F3N3O3
